US04783495
Tris(3,5-di-tert-butyl-4-hydroxyphenyl)hydroxysilane
To a stirred solution of 0.40 g (0.45 mmol) of tris-(3,5-di-tert-butyl-4-trimethylsilyloxyphenyl)hydroxysilane in 3 ml of tetrahydrofuran at 0° C. is added dropwise a solution of 0.43 g (1.37 mmol) of tetrabutylammonium fluoride trihydrate in 3 ml of tetrahydrofuran. The reaction mixture is stirred for 5 minutes at 0° C. and to it is added dropwise a solution of 0.19 g of concentrated hydrochloric acid in 1 ml of tetrahydrofuran. The solvent is removed in vacuo and the residue is dissolved in 30 ml of diethylether. The solution is extracted (3×25 ml) with water. The organic phase is dried over anhydrous sodium sulfate and the solvent is removed in vacuo to give 0.29 g of a white amorphous solid. The crude product is purified by preparative thin layer chromatography (silica gel, 7:3, heptane:ethyl acetate eluent) followed by crystallization from a heptane/toluene solvent mixture to give 0.14 g (46%) of product as a white solid; mp. 257°-258 ° C.

reactant | tris-(3,5-di-tert-butyl-4-trimethylsilyloxyphenyl)hydroxysilane | 0.45 mmol, 0.40 g | C(C)(C)(C)C=1C=C(C=C(C1O[Si](C)(C)C)C(C)(C)C)[Si](O)(C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C | C51H88O4Si4
reactant | tetrabutylammonium fluoride trihydrate | 1.37 mmol, 0.43 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 0.19 g | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | Tris(3,5-di-tert-butyl-4-hydroxyphenyl)hydroxysilane | 0.29 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)[Si](O)(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C42H64O4Si
